US08420642B2
Preparation of acetic acid 2-(5-phenoxy-pyridine-2-ylamino)-thiazole-4-ylmethyl ester (“A9”)
(5-Phenoxy-pyridine-2-yl)-thiourea (0.86 mmol) is dissolved in DMF (1 ml) and acetic acid 3-chloro-2-oxo-propyl ester (1.1 eq.) in 1 ml DMF is added and stirred 2 h at 70° C. After cooling to RT the precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. “A9” is obtained after column chromatography (heptan/ethyl acetate) as colourless powder in a yield of 69%; mp. 158.5-160.5° C.; HPLC (method C): 1.89 min; LC-MS (method A): 1.938 min, 342.15 (M+H+); 1H-NMR (DMSO-d6, 500 MHz): δ [ppm] 11.375 (s, 1H), 8.105 (d, 1H, J=2.8 Hz), 7.519 (dd, 1H, J=8.9 Hz, J=2.8 Hz), 7.389-7.347 (m, 2H), 7.120-7.088 (m, 2H), 6.995-6.978 (m, 2H), 6.918 (s, 1H), 5.007 (s, 2H), 2.064 (s, 3H).

reactant | (5-Phenoxy-pyridine-2-yl)-thiourea | 0.86 mmol | O(C1=CC=CC=C1)C=1C=CC(=NC1)NC(=S)N | C12H11N3OS
reactant | acetic acid 3-chloro-2-oxo-propyl ester | 1.1 eq. | ClCC(COC(C)=O)=O | C5H7ClO3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | acetic acid 2-(5-phenoxy-pyridine-2-ylamino)-thiazole-4-ylmethyl ester | yield of 69% | O(C1=CC=CC=C1)C=1C=CC(=NC1)NC=1SC=C(N1)COC(C)=O | C17H15N3O3S
